US09340506B2
To a solution of ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]acetate (synthesized as per preparation 44; 3.8 g, 9.35 mmol) in dry acetonitrile was added para-toluene sulfonyl azide (2.04 g, 10.3 mmol) followed by DBU (2.09 mL, 14.0 mmol) in dropwise manner. The reaction stirred for 30 min. then poured in ice cold water (20 mL) extracted with ethyl acetate (3×20 mL). The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to provide crude product, which was purified by column chromatography using 5-7% ethyl acetate in hexane to afford Ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]-2-diazo-acetate (3.3 g).

reactant | ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]acetate | 9.35 mmol, 3.8 g | C(C)(C)(C)OC(=O)N(C=1SC=C(N1)CC(=O)OCC)CC1=CC=C(C=C1)OC | C20H26N2O5S
reactant | para-toluene sulfonyl azide | 10.3 mmol, 2.04 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | DBU | 14.0 mmol, 2.09 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | C(C)#N | C2H3N
product | Ethyl 2-[2-[tert-butoxycarbonyl-[(4-methoxyphenyl)methyl]amino]thiazol-4-yl]-2-diazo-acetate | 3.3 g | C(C)(C)(C)OC(=O)N(C=1SC=C(N1)C(C(=O)OCC)=[N+]=[N-])CC1=CC=C(C=C1)OC | C20H24N4O5S
